US06432957B1
Synthesis of N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)-L-alanine amide
N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine (756 mg) and N-(9-fluorenylmethoxycarbonyl)-L-alanine (544 mg) were treated in the same manner as in Preparation Example 9 to obtain the title compound. Since this compound was unable to be isolated from impurities, it was used in the next reaction without purifying it as it is.

reactant | N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine | 756 mg | [Si](C)(C)(C(C)(C)C)OCCNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H36N2O4Si
reactant | N-(9-fluorenylmethoxycarbonyl)-L-alanine | 544 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C)C(=O)O | C18H17NO4
product | N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)-L-alanine amide | [Si](C)(C)(C(C)(C)C)OCCN(C([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C41H51N3O7Si
